US06649641B2
Step 2: trans-4-{[tert-Butoxycarbonyl-(4-tert-butylcyclohexyl)amino]methyl}benzoic Acid
trans-4-[(4-tert-Butylcyclohexylamino)methyl]benzoic Acid Methyl Ester (20.0 g, 65.9 mmol) was dissolved in THF (300 ml). Di-tert-butylpyrocarbonate (16.0 g, 73.4 mmol) and diisopropylethylamine (12.0 g, 92.9 mmol) was added and the clear solution stirred overnight at ambient temperature. Solvent was removed by rotary evaporation and the crystalline residue re-dissolved in ethanol (200 ml). Aqueous sodium hydroxide solution (100 ml, 4 N) was added and the mixture was heated to 70° C. for 4 hours. After cooling, the reaction volume was reduced to one third by rotary evaporation, and water (300 ml) was added. The mixture was extracted with diethyl ether (2×200 ml) to remove traces of non hydrolysed material. The water phase was then acidified to pH 3.0 by addition of aqueous 4 N HCl, whereupon the title material separated out of solution as compact crystals. The crystals were washed once with water and dried overnight in a vacuum oven (40° C.). Yield: 24.3 g (93%). 1H NMR (CDCl3), 300 MHz: δ 8.04 ppm. (d, 2H); 7.31 (d, 2H); 4.39 (bs, 2H); 4.05 (bs, 1H); 1.78 (bd, 4H); 0.95-1.65 (m, 14H); 0.83 (s, 9H). The signals were broaden due to the presence of cisltrans carbamate isomers.

reactant | trans-4-[(4-tert-Butylcyclohexylamino)methyl]benzoic Acid Methyl Ester | 65.9 mmol, 20.0 g | COC(C1=CC=C(C=C1)CN[C@@H]1CC[C@H](CC1)C(C)(C)C)=O | C19H29NO2
reactant | Di-tert-butylpyrocarbonate | 73.4 mmol, 16.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | diisopropylethylamine | 92.9 mmol, 12.0 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | trans-4-{[tert-Butoxycarbonyl-(4-tert-butylcyclohexyl)amino]methyl}benzoic Acid | C(C)(C)(C)OC(=O)N([C@@H]1CC[C@H](CC1)C(C)(C)C)CC1=CC=C(C(=O)O)C=C1 | C23H35NO4
